US04524205
5.2 g (0.015 mol) of 1-benzylideneamino-6-ethylthio-3-neopentyl-1,3,5-triazine-2,4(1H,3H)-dione (V-1), 3 g (0.015 mol) of S-ethyl-isothiosemicarbazide hydrobromide (VI-1, X=Br) and a spatula-tip of p-toluenesulphonic acid in 80 ml of toluene are stirred at 50°-55° C. for 12 hours. After the mixture has cooled, 0.6 g (0.015 mol) of sodium hydroxide in 5.4 g of water is added dropwise and the mixture is stirred at room temperature for 1 hour. The solid which has precipitated is filtered off and dried. 3.75 g (=95% of theory) of 1-amino-6-ethylthio-3-neopentyl-1,3,5-triazine-2,4(1H,3H)-dione (I-1) of melting point 204°-205° C. are obtained.

reactant | 1-benzylideneamino-6-ethylthio-3-neopentyl-1,3,5-triazine-2,4(1H,3H)-dione | 0.015 mol, 5.2 g | C(C1=CC=CC=C1)=NN1C(N(C(N=C1SCC)=O)CC(C)(C)C)=O | C17H22N4O2S
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | 0.015 mol, 0.6 g | [OH-].[Na+]
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 5.4 g | O | H2O
product | 1-amino-6-ethylthio-3-neopentyl-1,3,5-triazine-2,4(1H,3H)-dione | 3.75 g, 95% | NN1C(N(C(N=C1SCC)=O)CC(C)(C)C)=O | C10H18N4O2S
